US07344702B2
Synthesis of 1-(4-hydroxymethyl-phenoxy)-propan-2-ol
To a solution of 1-(4-hydroxymethylphenoxy)-propan-2-one (1.26 g, 6.99 mmol) dissolved in methanol (60 mL) was added solid NaBH4 (0.32 g, 8.39 mmol). After completion of addition the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with water, and the aqueous layer was extracted with ethyl acetate (3×). All combined organic layers were dried over Na2SO4, filtered, and concentrated to provide an oil (1.24 g, 6.81 mmol), which was used in the next step without any further purification (98% yield). 1H (CDCl37.29, 600 MHz): δ (2H, d, J=8.4 Hz), 6.90 (2H, d, J=8.5 Hz), 4.62 (2H, s), 4.21 (1H, m), 3.94 (1H, dd, J=9.2, 3.1 Hz), 3.82 (1H, m), 1.29 (3H, d, J=6.4 Hz).

reactant | 1-(4-hydroxymethylphenoxy)-propan-2-one | 6.99 mmol, 1.26 g | OCC1=CC=C(OCC(C)=O)C=C1 | C10H12O3
reactant | NaBH4 | 8.39 mmol, 0.32 g | [BH4-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
solvent | water | O | H2O
product | 1-(4-hydroxymethyl-phenoxy)-propan-2-ol | 6.81 mmol, 1.24 g, 98% yield | OCC1=CC=C(OCC(C)O)C=C1 | C10H14O3
